US04216160
Employing the procedure described above, but substituting for the N-acetyl-2-(triphenylmethylthio) acetamide an equivalent amount of N-acetyl-2-benzylthio acetamide, there is provided N-acetyl-N-methyl-2-(benzylthio) acetamide.

reactant | N-acetyl-2-(triphenylmethylthio) acetamide | C(C)(=O)NC(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H21NO2S
reactant | N-acetyl-2-benzylthio acetamide | C(C)(=O)NC(CCC1=CC=CC=C1)=S | C11H13NOS
product | N-acetyl-N-methyl-2-(benzylthio) acetamide | C(C)(=O)N(C(CSCC1=CC=CC=C1)=O)C | C12H15NO2S
